US03947577
To 1.06 g. (0.005 mole) of 3,5-di(4-pyridyl)-1,2,4-triazole in 100 ml. of tetrahydrofuran is added 57% sodium hydride in mineral oil (0.21 g., 0.005 mole). The reaction mixture is heated at reflux for 1/2 hour, cooled and a solution of benzenesulfonyl chloride (0.88 g., 0.005 mole) is added. The reaction mixture is heated at reflux for 1/2 hour, cooled, filtered and concentrated to a solid. After recrystallization from acetonitrile 0.4 g. of 1-benzenesulfonyl-3,5-di(4-pyridyl)-1,2,4-triazole melting at 210°-212°C. is obtained.

reactant | 3,5-di(4-pyridyl)-1,2,4-triazole | 0.005 mole | N1=CC=C(C=C1)C1=NNC(=N1)C1=CC=NC=C1 | C12H9N5
reactant | sodium hydride | [H-].[Na+]
reactant | benzenesulfonyl chloride | 0.005 mole, 0.88 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-benzenesulfonyl-3,5-di(4-pyridyl)-1,2,4-triazole | C1(=CC=CC=C1)S(=O)(=O)N1N=C(N=C1C1=CC=NC=C1)C1=CC=NC=C1 | C18H13N5O2S
